US07253192B2
A] 2-{4-[5-(3-Fluoro-phenyl)-pent-4-ynyloxyl]-2-methyl-phenoxy}-2-methyl-propionic acid
A degassed (argon) solution of 0.098 g (0.44 mmol) 1-fluoro-3-iodobenzene in 4 ml acetonitrile was treated with 0.111 g (0.40 mmol) 2-methyl-2-(2-methyl-4-pent-4-ynyloxy-phenoxy)-propionic acid (example 26B]), 0.014 g (0.02 mmol) PdCl2(Ph3P)2, 0.004 g (0.02 mmol) of CuI and 0.17 ml (1.20 mmol) triethylamine. The reaction was stirred for 2.5 h and then extracted with chilled aqueous 10% KHSO4/ether (three times). The organic phases were washed with aqueous 10% NaCl, dried (Na2SO4) and evaporated. Purification was done by flash-chromatography on silica gel (1. n-heptane/EtOAc 4:1 and 2. CH2Cl2/MeOH 2%-10%). The pure fractions were evaporated, dissolved in ether and washed with aqueous 10% KHSO4/ether (three times). The organic phase was dried (Na2SO4) and evaporated to yield 0.10 g of the title compound as an orange viscous oil.

reactant | 1-fluoro-3-iodobenzene | 0.44 mmol, 0.098 g | FC1=CC(=CC=C1)I | C6H4FI
reactant | 2-methyl-2-(2-methyl-4-pent-4-ynyloxy-phenoxy)-propionic acid | 0.40 mmol, 0.111 g | CC(C(=O)O)(C)OC1=C(C=C(C=C1)OCCCC#C)C | C16H20O4
reactant | triethylamine | 1.20 mmol, 0.17 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 4 ml | C(C)#N | C2H3N
catalyst | CuI | 0.02 mmol, 0.004 g | [Cu]I
product | 2-{4-[5-(3-Fluoro-phenyl)-pent-4-ynyloxyl]-2-methyl-phenoxy}-2-methyl-propionic acid | 0.10 g | FC=1C=C(C=CC1)C#CCCCOC1=CC(=C(OC(C(=O)O)(C)C)C=C1)C | C22H23FO4
